US07612114B2
5-Methoxy-2-(3-methoxybenzyl)phenol
The title compound was synthesized by referring to Tetrahedron Lett., 1995, 36 (30), 5335. To a solution of (2-hydroxy-4-methoxyphenyl)(3-methoxyphenyl)methanone (5.2 g) in tetrahydrofuran (100 ml) were sequentially added triethylamine (3.0 g) and methyl chloroformate (2.2 g) on an ice bath, the solution was stirred for 48 minutes, and then the reaction mixture was filtered. To a solution of sodium borohydride (3.0 g) in water (50 ml) was added dropwise the above-mentioned filtrate on an ice bath, and the solution was stirred for 1 hour and 10 minutes. The reaction solution was concentrated in vacuo, extracted with ethyl acetate, then sequentially washed with water and brine, dried over anhydrous magnesium sulfate, and then the solvent was evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane-ethyl acetate system) to provide the title compound (4.8 g).

reactant | (2-hydroxy-4-methoxyphenyl)(3-methoxyphenyl)methanone | 5.2 g | OC1=C(C=CC(=C1)OC)C(=O)C1=CC(=CC=C1)OC | C15H14O4
reactant | triethylamine | 3.0 g | C(C)N(CC)CC | C6H15N
reactant | methyl chloroformate | 2.2 g | ClC(=O)OC | C2H3ClO2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 5-Methoxy-2-(3-methoxybenzyl)phenol | 4.8 g | COC=1C=CC(=C(C1)O)CC1=CC(=CC=C1)OC | C15H16O3
